US05538739
Octreotide Pamoate
10.19 g of octreotide free base (10 mM) and 3.88 embonic acid (10 mM) are dissolved in 1 liter of water/dioxane (1:1). The reaction mixture is filtered, and lyophilized to give a yellow powder [α]20D=+7.5° (C=0.35, in DMF), of octreotide pamoate hydrate. Factor=1.4 wherein the factor=weight of lyophilizate/weight of octreotide contained therein.

reactant | octreotide | 10 mM, 10.19 g | C[C@H]([C@H]1C(=O)N[C@@H](CSSC[C@@H](C(=O)N[C@H](C(=O)N[C@@H](C(=O)N[C@H](C(=O)N1)CCCCN)CC2=CNC3=C2C=CC=C3)CC=4C=CC=CC4)NC(=O)[C@@H](CC=5C=CC=CC5)N)C(=O)N[C@H](CO)[C@@H](C)O)O | C49H66N10O10S2
reactant | embonic acid | 10 mM | C1=CC=C2C(=C1)C=C(C(=C2CC3=C(C(=CC4=CC=CC=C43)C(=O)O)O)O)C(=O)O | C23H16O6
solvent | water dioxane | 1 liter | O.O1CCOCC1
product | Octreotide Pamoate | C[C@H]([C@H]1C(=O)N[C@@H](CSSC[C@@H](C(=O)N[C@H](C(=O)N[C@@H](C(=O)N[C@H](C(=O)N1)CCCCN)CC2=CNC3=C2C=CC=C3)CC=4C=CC=CC4)NC(=O)[C@@H](CC=5C=CC=CC5)N)C(=O)N[C@H](CO)[C@@H](C)O)O.C=1C=CC=2C(C1)=CC(=C(C2CC3=C4C=CC=CC4=CC(=C3O)C(=O)O)O)C(=O)O | InChI=1S/C49H66N10O10S2.C23H16O6/c1-28(61)39(25-60)56-48(68)41-27-71-70-26-40(57-43(63)34(51)21-30-13-5-3-6-14-30)47(67)54-37(22-31-15-7-4-8-16-31)45(65)55-38(23-32-24-52-35-18-10-9-17-33(32)35)46(66)53-36(19-11-12-20-50)44(64)59-42(29(2)62)49(69)58-41;24-20-16(14-7-3-1-5-12(14)9-18(20)22(26)27)11-17-15-8-4-2-6-13(15)10-19(21(17)25)23(28)29/h3-10,13-18,24,28-29,34,36-42,52,60-62H,11-12,19-23,25-27,50-51H2,1-2H3,(H,53,66)(H,54,67)(H,55,65)(H,56,68)(H,57,63)(H,58,69)(H,59,64);1-10,24-25H,11H2,(H,26,27)(H,28,29)/t28-,29-,34-,36+,37+,38-,39-,40+,41+,42+;/m1./s1
